US08865726B2
To a stirred solution of tert-butyl (1S,2R)-2-hydroxycyclohexylcarbamate (1.15 g, 5.34 mmol) in THF (40 mL) was added NaH (60%, 0.32 g, 8.0 mmol) at 0° C. The reaction mixture was stirred at ambient temperature overnight. Saturated aqueous NH4Cl solution was added to quench the reaction. The mixture was partitioned between EtOAc and water. The aqueous layer was extracted with EtOAc. The combined organic layers were washed with brine, dried and concentrated. The residue was purified by column chromatography (EtOAc/hexanes, 2:1) to give (3aS,7aR)-hexahydrobenzo[d]oxazol-2(3H)-one (0.50 g, 66%) as a white solid.

reactant | tert-butyl (1S,2R)-2-hydroxycyclohexylcarbamate | 5.34 mmol, 1.15 g | O[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O | C11H21NO3
reactant | NaH | 8.0 mmol, 0.32 g | [H-].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | (3aS,7aR)-hexahydrobenzo[d]oxazol-2(3H)-one | 0.50 g, 66% | O1C(N[C@@H]2[C@H]1CCCC2)=O | C7H11NO2
